US04355037
3-(1-Cyano-4-piperidyl)-5-methyl-1,2-benzisoxazole
A suspension of 0.5 g of 3-(1-methyl-4-piperidyl)-5-methyl-1,2-benzisoxazole, 0.37 g of cyanogen bromide and 1.5 g of potassium carbonate in 50 ml of chloroform was heated under reflux for 48 hrs and stirred at room temperature for 48 hrs. The reaction was filtered, the solvent was removed and the residue was triturated with hexane to give a solid. The solid was recrystallized from hexane (three times) to give 0.178 g (37%) of product, mp, 125°-126°.

reactant | 3-(1-methyl-4-piperidyl)-5-methyl-1,2-benzisoxazole | 0.5 g | CN1CCC(CC1)C1=NOC2=C1C=C(C=C2)C | C14H18N2O
reactant | cyanogen bromide | 0.37 g | N#CBr | CBrN
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(1-Cyano-4-piperidyl)-5-methyl-1,2-benzisoxazole | 0.178 g, 37% | C(#N)N1CCC(CC1)C1=NOC2=C1C=C(C=C2)C | C14H15N3O
